US08431581B2
Preparation of 3-(4-Fluoro-2-methanesulfonyl-phenyl)-propionic acid methyl ester
To a solution of 3-(4-fluoro-2-methylsulfanyl-phenyl)-propionic acid methyl ester (1 g, 4.3 mmol) in acetic acid (10 ml) was added dropwise the solution of KMnO4 (1.3 g, 8.2 mmol) in 10 ml H2O. The mixture was stirred at room temperature for 3 hours, and then poured into saturated Na2S2O3 solution and extracted with ethyl acetate. The organic layer was washed with brine, and then dried over Na2SO4. The product was purified by column chromatography to give the titled compound (1.2 g, yield 98%)

reactant | 3-(4-fluoro-2-methylsulfanyl-phenyl)-propionic acid methyl ester | 4.3 mmol, 1 g | COC(CCC1=C(C=C(C=C1)F)SC)=O | C11H13FO2S
reactant | KMnO4 | 8.2 mmol, 1.3 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | H2O | 10 ml | O | H2O
product | 3-(4-Fluoro-2-methanesulfonyl-phenyl)-propionic acid methyl ester | 1.2 g, yield 98% | COC(CCC1=C(C=C(C=C1)F)S(=O)(=O)C)=O | C11H13FO4S
